US08313849B2
Further, an esterification reaction and a transesterification reaction were carried out among dimethyl 2,6-naphthalenedicarboxylate, 6,6′-(ethylenedioxy)di-2-naphthoic acid and ethylene glycol in the presence of titanium tetrabutoxide and then a polycondensation reaction was carried out to obtain an aromatic polyester (B-1) for the film layer (B) which comprised 73 mol % of a 2,6-naphthalenedicarboxylic acid component and 27 mol % of a 6,6′-(alkylenedioxy)di-2-naphthoic acid component based on the total of all the acid components and 98 mol % of an ethylene glycol component and 2 mol % of a diethylene glycol component based on the total of all the glycol components. This aromatic polyester (B-1) had a melting point of 240° C. and a glass transition temperature of 117° C.

reactant | dimethyl 2,6-naphthalenedicarboxylate | C1=C(C=CC2=CC(=CC=C12)C(=O)OC)C(=O)OC | C14H12O4
reactant | 6,6′-(ethylenedioxy)di-2-naphthoic acid | C(OC=1C=C2C=CC(=CC2=CC1)C(=O)O)COC=1C=C2C=CC(=CC2=CC1)C(=O)O | C24H18O6
catalyst | titanium tetrabutoxide | [O-]CCCC.[O-]CCCC.[O-]CCCC.[O-]CCCC.[Ti+4]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2,6-naphthalenedicarboxylic acid | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
